US07884126B2
3.1 tert-Butyl 5-{3-[(5-chlorothiophene-2-carbonyl)amino]-1H-indazol-5-yl}furan-2-carboxylate
300 mg of tert-butyl 5-(3-amino-1H-indazol-5-yl)furan-2-carboxylate, 199 mg of 5-chlorothiophene-2-carbonyl chloride and 8 mg of 4-(dimethylamino)pyridine are stirred at 90° C. for 24 hours in 2 ml of pyridine and 100 μl of dioxane. The reaction mixture is evaporated, and the residue is purified by column chromatography. Yield: 260 mg (58%) of tert-butyl 5-{3-[(5-chlorothiophene-2-carbonyl)amino]-1H-indazol-5-yl}furan-2-carboxylate.

reactant | tert-butyl 5-(3-amino-1H-indazol-5-yl)furan-2-carboxylate | 300 mg | NC1=NNC2=CC=C(C=C12)C1=CC=C(O1)C(=O)OC(C)(C)C | C16H17N3O3
reactant | 5-chlorothiophene-2-carbonyl chloride | 199 mg | ClC1=CC=C(S1)C(=O)Cl | C5H2Cl2OS
catalyst | 4-(dimethylamino)pyridine | 8 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | dioxane | 100 μl | O1CCOCC1 | C4H8O2
product | tert-Butyl 5-{3-[(5-chlorothiophene-2-carbonyl)amino]-1H-indazol-5-yl}furan-2-carboxylate | ClC1=CC=C(S1)C(=O)NC1=NNC2=CC=C(C=C12)C1=CC=C(O1)C(=O)OC(C)(C)C | C21H18ClN3O4S
